US06780563B2
A flask was charged with 27.9 g of magnesium and 250 ml of THF, to which a solution of 135 g of chloromethyltrimethylsilane diluted with 150 ml of THF was added dropwise at 50° C. The addition was followed by one hour of stirring at 65° C., after which 98.1 g of cyclohexanone was added dropwise below 20° C. After one hour of stirring at room temperature, an aqueous solution of ammonium chloride was added for hydrolysis. This was followed by ordinary post-treatments. Upon vacuum distillation, there was obtained 141.6 g (yield 76%) of 1-trimethylsilylmethylcyclohexanol.

reactant | magnesium | 27.9 g | [Mg] | Mg
reactant | chloromethyltrimethylsilane | 135 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | cyclohexanone | 98.1 g | C1(CCCCC1)=O | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 1-trimethylsilylmethylcyclohexanol | 141.6 g, yield 76% | C[Si](C)(C)CC1(CCCCC1)O | C10H22OSi
